US06960601B2
To a solution of 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxaldehyde (62 mg, 0.20 mmol) in methanol (7 mL) was added cyclohexylamine (58 μL, 0.5 mmol). The mixture was stirred overnight, and cooled to 4° C. NaBH4 (40 mg, 1.1 mmol) was added. The mixture was stirred at rt for 1 h, and concentrated. The residue was dissolved in CH2Cl2, washed with brine, dried over MgSO4, filtered, and concentrated. The residue was purified by preparative TLC (50% EtOAc in hexane) to give N-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]methyl}-N-cyclohexylamine (65 mg, 81% yield): LC-MS m/z (400.7 MH+), retention time 2.32 min (method 1).

reactant | 2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazole-4-carboxaldehyde | 0.20 mmol, 62 mg | ClC1=C(C=CC=C1)C=1N(C=C(N1)C=O)C1=CC=C(C=C1)Cl | C16H10Cl2N2O
reactant | cyclohexylamine | 0.5 mmol, 58 μL | C1(CCCCC1)N | C6H13N
reactant | NaBH4 | 1.1 mmol, 40 mg | [BH4-].[Na+]
solvent | methanol | 7 mL | CO | CH4O
product | N-{[2-(2-chlorophenyl)-1-(4-chlorophenyl)-1H-imidazol-4-yl]methyl}-N-cyclohexylamine | 65 mg, 81% yield | ClC1=C(C=CC=C1)C=1N(C=C(N1)CNC1CCCCC1)C1=CC=C(C=C1)Cl | C22H23Cl2N3
